US04130563
181 g (1.0 mol) of cis-4-acetyl-2-oxa-4-aza-bicyclo-[4.3.0]non-7-en-3-one, in 1,000 ml of methanol, are hydrogenated at 25° C. under normal pressure in the presence of platinum dioxide. After the catalyst has been filtered off, the reaction solution is freed from the solvent by distillation. Distillation of the residue gives 183 g (100% of theory) of cis-4-acetyl-2-oxa-4-aza-bicyclo[4.3.0]nonan-3-one (melting point: 80°-83° C.; from methanol).

reactant | cis-4-acetyl-2-oxa-4-aza-bicyclo-[4.3.0]non-7-en-3-one | 1.0 mol, 181 g | C(C)(=O)N1C(O[C@@H]2CC=C[C@@H]2C1)=O | C9H11NO3
solvent | methanol | 1,000 ml | CO | CH4O
catalyst | platinum dioxide | [Pt](=O)=O
product | cis-4-acetyl-2-oxa-4-aza-bicyclo[4.3.0]nonan-3-one | 183 g, 100% | C(C)(=O)N1C(O[C@@H]2CCC[C@@H]2C1)=O | C9H13NO3
